US04022794
Step B. Preparation of 7-{3-[2-(Tetrahydro-2H-pyran-2-yl)-ethyl]-4-oxo-2-thiazolidinyl}heptanoic Acid
This compound is prepared essentially by the same method as described in Example 1, Step C, except that the methyl 7-[3-(3-hydroxyoctyl)-4-oxo-2-thiazolidinyl]heptanoate is replaced by methyl 7-{3-[2-(tetrahydro-2H-pyran-2-yl)-ethyl]-4-oxo-2-thiazolidinyl}heptanoate. After careful chromatographic purification on silica gel, the title compound is obtained as a viscous, pale yellow oil.

reactant | methyl 7-[3-(3-hydroxyoctyl)-4-oxo-2-thiazolidinyl]heptanoate | OC(CCN1C(SCC1=O)CCCCCCC(=O)OC)CCCCC | C19H35NO4S
reactant | methyl 7-{3-[2-(tetrahydro-2H-pyran-2-yl)-ethyl]-4-oxo-2-thiazolidinyl}heptanoate | O1C(CCCC1)CCN1C(SCC1=O)CCCCCCC(=O)OC | C18H31NO4S
product | 7-{3-[2-(Tetrahydro-2H-pyran-2-yl)-ethyl]-4-oxo-2-thiazolidinyl}heptanoic Acid | O1C(CCCC1)CCN1C(SCC1=O)CCCCCCC(=O)O | C17H29NO4S
